US07538123B2
(2) 2-amino-5-methoxy-4-(2-propenyl)benzylalcohol
24 ml of ethanol-water (5:1) was added to 1.00 g of 3-methoxy-6-nitro-4-(2-propenyl)benzylalcohol, 1.00 g of iron, and 2.00 g of ammonium chloride. The reaction solution was stirred at 90° C. for 1 hour. Thereafter, the reaction solution was cooled to a room temperature, and insoluble matters were then removed by filtration. The filtrate was concentrated under a reduced pressure. The residue was diluted with ethyl acetate and then washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure, so as to obtain 793 mg of the subject compound.

reactant | 3-methoxy-6-nitro-4-(2-propenyl)benzylalcohol | 1.00 g | COC=1C=C(CO)C(=CC1CC=C)[N+](=O)[O-] | C11H13NO4
reactant | ammonium chloride | 2.00 g | [Cl-].[NH4+]
catalyst | iron | 1.00 g | [Fe] | Fe
solvent | ethanol water | 24 ml | C(C)O.O
product | 2-amino-5-methoxy-4-(2-propenyl)benzylalcohol | 793 mg | NC1=C(CO)C=C(C(=C1)CC=C)OC | C11H15NO2
